US09376426B2
3.5 A suspension of 218 mg (0.50 mmol) of 2-[3-(5-bromopyrimidin-2-yl)benzyl]-6-phenoxy-2H-pyridazin-3-one, 251 mg (0.75 mmol) of 1-(2-pyrrolidin-1-ylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (content 87%) and 230 mg (1.00 mmol) of tripotassium phosphate trihydrate in 2 ml of 1,2-dimethoxyethane and 1 ml of DMF is heated to 85° C. under nitrogen. 35.0 mg (0.05 mmol) of bis(triphenylphosphine)palladium(II) chloride and 9 μl (0.07 mmol) of triethylamine are then added and stirred at 85° C. for 42 hours. The reaction mixture is partitioned between THF and saturated sodium chloride solution. The organic phase is dried over sodium sulfate, evaporated and chromatographed on a silica-gel column with methanol/tert-butyl ether as eluent, giving 6-phenoxy-2-(3-{5-[1-(2-pyrrolidin-1-ylethyl)-1H-pyrazol-4-yl]-pyrimidin-2-yl}benzyl)-2H-pyridazin-3-one as yellowish amorphous material; ESI 520.

reactant | 2-[3-(5-bromopyrimidin-2-yl)benzyl]-6-phenoxy-2H-pyridazin-3-one | 0.50 mmol, 218 mg | BrC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)OC2=CC=CC=C2)C=CC1 | C21H15BrN4O2
reactant | 1-(2-pyrrolidin-1-ylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.75 mmol, 251 mg | N1(CCCC1)CCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H26BN3O2
reactant | tripotassium phosphate trihydrate | 1.00 mmol, 230 mg | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | triethylamine | 0.07 mmol, 9 μl | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.05 mmol, 35.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-phenoxy-2-(3-{5-[1-(2-pyrrolidin-1-ylethyl)-1H-pyrazol-4-yl]-pyrimidin-2-yl}benzyl)-2H-pyridazin-3-one | O(C1=CC=CC=C1)C=1C=CC(N(N1)CC1=CC(=CC=C1)C1=NC=C(C=N1)C=1C=NN(C1)CCN1CCCC1)=O | C30H29N7O2
